US07135277B2
To a polymerization tank of a gas monomer reaction apparatus (manufactured by Taiatsu Techno Corporation, TAS-2J type), were charged 287 g of distilled water, 7.73 g of a surfactant (Pionin A-43-S (manufactured by TAKEMOTO OIL & FAT CO., LTD.): solid matter content of 48.5% by weight), 14.06 mL of 1 mol/L sodium hydroxide, 0.15 g of ethylenediamine tetraacetate tetrasodium salt, 255 g of styrene, 11.25 g of acrylic acid, and 3.0 g of tert-dodecyl mercaptan, followed by sealing of the reaction vessel and stirring at a stirring rate of 200 rpm. Degassing was conducted with a vacuum pump, followed by repeating nitrogen gas replacement several times. Thereto was injected 108.75 g of 1,3-butadiene, and the inner temperature is elevated to 60° C. Thereto was added a solution of 1.875 g of ammonium persulfate dissolved in 50 mL of water, and the mixture was stirred for 5 hours as it stands. The temperature was further elevated to 90° C., followed by stirring for 3 hours. After completing the reaction, the inner temperature was lowered to reach to the room temperature, and the pH of the mixture was adjusted to 8.4 using 1 mol/L lithium hydroxide. Thereafter, filtration with a polypropylene filter having the pore size of 1.0 μm was conducted to remove foreign substances such as dust followed by storage. Accordingly, SBR latex TP-1 was obtained in an amount of 774.7 g. Upon the measurement of halogen ion by ion chromatography, concentration of chloride ion was revealed to be 3 ppm. As a result of the measurement of the concentration of the chelating agent by high performance liquid chromatography, it was revealed to be 145 ppm.

reactant | Pionin | CCCCCCCN\1C(=CS/C1=C/C2=[N+](C(=CS2)C)CCCCCCC)C.[I-]
reactant | sodium hydroxide | 1 mol/L, 14.06 mL | [OH-].[Na+]
reactant | ethylenediamine tetraacetate tetrasodium salt | 0.15 g | [Na].[Na].[Na].[Na].C(C)(=O)ON(CCN(OC(C)=O)OC(C)=O)OC(C)=O
reactant | styrene | 255 g | C=CC1=CC=CC=C1 | C8H8
reactant | acrylic acid | 11.25 g | C(C=C)(=O)O | C3H4O2
reactant | tert-dodecyl mercaptan | 3.0 g | CC(C)C(C)(C)C(C)(C)C(C)(C)S | C12H26S
reactant | lithium hydroxide | 1 mol/L | [OH-].[Li+]
solvent | water | 287 g | O | H2O
product | TP-1 | C/C=C/C1C[C@H]([C@H](C1)O)O | C8H14O2
